US08067445B2
Step 1: {2′-[3-(4-Chloro-benzyl)-1-ethyl-ureidomethyl]-4′-fluoro-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
(2′-Ethylaminomethyl-4′-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester (0.172 g, 0.5 mmol) and diisopropylethylamine (0.43 mL, 2.5 mmol) were combined in CH2Cl2 (2.5 mL) and cooled to 0° C. Phosgene (20% in toluene; 0.40 mL, 0.75 mmol) was added, and the mixture was stirred for 1 hour. 4-Chlorobenzylamine (0.012 mL, 1.0 mmol) was added, and the reaction was stirred for 1 hour. The mixture was diluted with CH2Cl2 and washed with H2O. The organic layer was dried, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | (2′-Ethylaminomethyl-4′-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | 0.5 mmol, 0.172 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)F)CNCC)=O | C20H24FNO3
reactant | diisopropylethylamine | 2.5 mmol, 0.43 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Phosgene | 0.75 mmol, 0.40 mL | C(=O)(Cl)Cl | CCl2O
reactant | 4-Chlorobenzylamine | 1.0 mmol, 0.012 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | {2′-[3-(4-Chloro-benzyl)-1-ethyl-ureidomethyl]-4′-fluoro-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)F)CN(C(=O)NCC1=CC=C(C=C1)Cl)CC)=O | C28H30ClFN2O4
